US04171303
2.8 ml. (0.02 moles) of triethylamine are added to a suspension of 3.8 g. (0.01 mole) of 7-amino-3-methyl-ceph-3-em-4-carboxylic acid trichloroethyl ester hydrochloride in 30 ml. of methylene chloride. The separated triethylamine hydrochloride is filtered off, the filtrate is cooled to 0° C., and 5.02 g (0.01 mole) of phenylmalonic acid phenylester pentachlorophenyl ester are added. The obtained clear solution is stirred at the same temperature for 30 minutes, thereafter it is washed with 2 n aqueous hydrochloride acid and the solvent is evaporated. The residue is treated with absolute ethanol. 4.7 g. (80%) of 7-(α-phenoxycarbonyl-phenylacetamido)-3-methyl-ceph-3-em-4-carboxylic acid trichloroethyl ester are obtained. The white, crystalline substance melts at 120°-125° C.

reactant | triethylamine | 0.02 moles | C(C)N(CC)CC | C6H15N
reactant | 7-amino-3-methyl-ceph-3-em-4-carboxylic acid trichloroethyl ester hydrochloride | 0.01 mole | Cl.ClC(COC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C)(Cl)Cl
reactant | phenylmalonic acid phenylester pentachlorophenyl ester | 0.01 mole, 5.02 g | ClC1=C(C(=C(C(=C1OC(C(C(=O)OC1=CC=CC=C1)C1=CC=CC=C1)=O)Cl)Cl)Cl)Cl | C21H11Cl5O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-(α-phenoxycarbonyl-phenylacetamido)-3-methyl-ceph-3-em-4-carboxylic acid trichloroethyl ester | 80% | ClC(COC(=O)C1=C(CS[C@H]2N1C(C2NC(C(C(=O)OC2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C)(Cl)Cl | C25H21Cl3N2O6S
